US04640913
2-[(2-Methyl-1,3-dithiolan-2-yl)methyl]-1,3-propanediol
To a solution of about 14.53 g of lithium borohydride in about 630 ml of tetrahydrofuran at about 0° C. was added about 84.0 g of dimethyl[(2-methyl-1,3-dithiolan-2-yl)methyl]propanedioate dropwise. After the exotherm ended the mixture was stirred at room temperature for about 18 hours, then about 4.15 g of lithium borohydride were added and stirring was continued for about 20 hours. The solution was cooled in an ice bath, about 400 ml of about 6N hydrochloric acid were added dropwise, the mixture was saturated with sodium chloride and then extracted with ether. The ether layer was washed with brine, then saturated sodium bicarbonate, dried and the solvent removed. Methanol was added and removed three times. The solid was recrystallized from carbon tetrachloride, giving about 56.77 g of the desired title compound, mp 72°-73° C.

reactant | lithium borohydride | about 14.53 g | [BH4-].[Li+]
reactant | dimethyl[(2-methyl-1,3-dithiolan-2-yl)methyl]propanedioate | about 84.0 g | COC(C(C(=O)OC)CC1(SCCS1)C)=O | C10H16O4S2
reactant | lithium borohydride | about 4.15 g | [BH4-].[Li+]
reactant | hydrochloric acid | about 6N, about 400 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | about 630 ml | O1CCCC1 | C4H8O
product | 2-[(2-Methyl-1,3-dithiolan-2-yl)methyl]-1,3-propanediol | about 56.77 g | CC1(SCCS1)CC(CO)CO | C8H16O2S2
